### PR TITLE
feat(LinearAlgebra/AffineSubspace): define the range of an `AffineMap`

### PR DESCRIPTION
**Pull request by ooovi**
This PR adds the range of affine maps and provides some API, following `LinearMap.range`.

AI disclosure: I used LLMs for library search and code review.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Range.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+  Iff.rfl
+
+theorem range_eq_map_top : f.range = .map f ⊤ := by ext; simp
+
+theorem mem_range_self (x : P₁) : f x ∈ f.range := by simp
+
+@[simp]
+theorem range_id : (id R P₁).range = ⊤ := by ext; simp
+
+theorem range_direction_eq_linear_range : f.range.direction = f.linear.range := by
```
Comment (gasparattila) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Range.lean]:
```suggestion
theorem direction_range_eq_range_linear : f.range.direction = f.linear.range := by
```
We should probably use prefix naming for `direction` even though the names of existing lemmas are a bit inconsistent.

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Range.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
...
+  Set.instNonemptyRange f
+
+@[simp, norm_cast]
+theorem coe_range : f.range = Set.range f := rfl
+
+@[simp]
+theorem mem_range (x : P₂) : x ∈ f.range ↔ ∃ (y : P₁), f y = x :=
+  Iff.rfl
+
+theorem range_eq_map_top : f.range = .map f ⊤ := by ext; simp
```
Comment (gasparattila) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Range.lean]: You should add the reverse as `AffineMap.map_top` and make it a `simp` lemma. I think this lemma could even be removed if we have the reverse, it's not clear to me why we have both directions for `LinearMap`.

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Range.lean [hunk 3]
```diff
@@ -0,0 +1,90 @@
...
+theorem mem_range_self (x : P₁) : f x ∈ f.range := by simp
+
+@[simp]
+theorem range_id : (id R P₁).range = ⊤ := by ext; simp
+
+theorem range_direction_eq_linear_range : f.range.direction = f.linear.range := by
+  rw [range_eq_map_top, map_direction, direction_top, Submodule.map_top]
+
+/-- Restrict the codomain of an affine map `f` to `f.range`. -/
+def rangeRestrict : P₁ →ᵃ[R] f.range where
```
Comment (gasparattila) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Range.lean]: You should add
```lean
@[simp]
theorem coe_rangeRestrict_apply (x : P₁) : f.rangeRestrict x = f x :=
  rfl

@[simp]
theorem coe_rangeRestrict_linear_apply (x : V₁) : f.rangeRestrict.linear x = f.linear x :=
  rfl
```
so that applications of `rangeRestrict` can be reduced by `simp`.

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Range.lean [hunk 4]
```diff
@@ -0,0 +1,90 @@
...
+  toFun p := ⟨f p, p, rfl⟩
+  linear := f.linear.codRestrict f.range.direction
+    (f.range_direction_eq_linear_range ▸ f.linear.mem_range_self)
+  map_vadd' _ _ := by ext; simp [map_vadd]
```
Comment (gasparattila) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Range.lean]:
```suggestion
  map_vadd' _ _ := by ext; simp
```
`map_vadd` is already a simp lemma.
